US04209616
3-Acetoxymethyl-7β-(2-hydroxyimino-2-phenylacetamido)ceph-3-em-4-carboxylic acid (syn isomer)
To a suspension of 3-acetoxymethyl-7-aminoceph-3-em-4-carboxylic acid p-toluenesulphonic acid salt (4.8 g) in acetonitrile:dimethylacetamide (6:1, 25 ml.) was added dropwise with stirring at room temperature a 3 M solution of 2-dichloroacetoxyimino-2-phenylacetyl chloride (syn isomer) in acetonitrile (5 ml.). The reaction was stirred at room temperature until the solution was homogeneous, then poured into saturated aqueous sodium bicarbonate solution. The solution was washed with ethyl acetate, acidified to pH 1.0 (2 N-hydrochloric acid) and extracted with ethyl acetate. The combined extracts were washed with water, dried and concentrated to ca. 10 ml. The concentrate was added dropwise to petroleum spirit (b.p. 40°-60°) with vigorous stirring. This produced a gummy solid which was stirred with ethyl acetate (50 ml.) and the solution filtered and added dropwise to petroleum spirit (300 ml.). The precipitated solid was filtered and dried to give the title acid (1.47 g; 29%), [α]D +57° (c 0.7 DMSO) λmax. (EtOH) 253.5 nm (ε 15,800).

reactant | 3-acetoxymethyl-7-aminoceph-3-em-4-carboxylic acid p-toluenesulphonic acid salt | 4.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O
reactant | 2-dichloroacetoxyimino-2-phenylacetyl chloride | ClC(C(=O)ON=C(C(=O)Cl)C1=CC=CC=C1)Cl | C10H6Cl3NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile dimethylacetamide | 25 ml | C(C)#N.CC(=O)N(C)C
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | EtOH | CCO | C2H6O
product | 3-Acetoxymethyl-7β-(2-hydroxyimino-2-phenylacetamido)ceph-3-em-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(C2=CC=CC=C2)=NO)=O)=O | C18H17N3O7S
